US04590284
2,5-Dimethyl-4-hydroxy-3(2H)-furanone (13.3 g, 0.1 mole) and butyl vinyl ether (20.0 g, 0.2 mole) are reacted as in Example 1 to give a 37.8% yield (8.83 g) of 2,5-dimethyl-4-[(1'-butoxy)ethoxy]-3(2H)-furanone, b.p. 68.8° C. (0.75 torr) IR (neat, film) 1200, 1625, 1700, 2865, 2930, 2958, 2978 cm-1, 1H NMR (CDCl3) δ0.95 (m, 3), 1.35 (d, J=5 Hz, 3), 1.38 (d, J=8 Hz, 3), 2.18 (S, 3), 3.70 (m, 2), 4.48 (q, J=7 Hz, 1) 5.31 (q, J=5 Hz, 1).

reactant | 2,5-Dimethyl-4-hydroxy-3(2H)-furanone | 0.1 mole, 13.3 g | CC1OC(=C(C1=O)O)C | C6H8O3
reactant | butyl vinyl ether | 0.2 mole, 20.0 g | C(=C)OCCCC | C6H12O
product | 2,5-dimethyl-4-[(1'-butoxy)ethoxy]-3(2H)-furanone | 8.83 g, 37.8% yield | CC1OC(=C(C1=O)OC(C)OCCCC)C | C12H20O4
